US05716944
A mixture of 2-hydoxy-4,5-methylenedioxybenzaldehyde (1.16 g), diethyl malonate (1.34 g), piperidine (0.3 g), acetic acid (0.035 ml) and ethanol (30 ml) was refluxed for 4 hours. After the reaction mixture was cooled, the resulting crystal was collected by filtration to yield ethyl 6,7-methylenedioxy-2-oxo-1-benzopyran-3-carboxylate (1.29 g, 70%) having a melting point of 200°-201° C.

reactant | 2-hydoxy-4,5-methylenedioxybenzaldehyde | 1.16 g | OC1=C(C=O)C=C2C(=C1)OCO2 | C8H6O4
reactant | diethyl malonate | 1.34 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | piperidine | 0.3 g | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.035 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | ethyl 6,7-methylenedioxy-2-oxo-1-benzopyran-3-carboxylate | 1.29 g, 70% | C1OC=2C(=CC3=C(C=C(C(O3)=O)C(=O)OCC)C2)O1 | C13H10O6
